US04178449
A mixture of 2 g. of ethyl 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxylate, 2 g. of potassium hydroxide and 50 ml. of ethanol:water (9:1) is refluxed for 4 hours. The mixture is concentrated, diluted with water and the solid 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxylic acid isolated. The preceding compound is heated neat at 190° C. to give the product of the example.

reactant | ethyl 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxylate | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2C(=O)OCC)(F)F | C16H12F3N3O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol water | C(C)O.O
product | 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxylic acid | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2C(=O)O)(F)F | C14H8F3N3O2
